US06077832
5,6-Dichloro-2-(isopropylamino)-1H-benzimidazole
5,6-Dichloro-1,2-phenylenediamine (200.0 g, 1.13 mol), isopropyl isothiocyanate (122.0 g, 1.21 mol), 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate (622.0 g, 1.47 mol) and pyridine (4 L) were used according to general procedure I. The product was recrystallized from acetonitrile to give 184 g (67%) of a brown solid. Analytical data were consistent with those reported above.

reactant | 5,6-Dichloro-1,2-phenylenediamine | 1.13 mol, 200.0 g | ClC=1C=CC(=C(C1Cl)N)N | C6H6Cl2N2
reactant | isopropyl isothiocyanate | 1.21 mol, 122.0 g | C(C)(C)N=C=S | C4H7NS
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate | 1.47 mol, 622.0 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | pyridine | 4 L | N1=CC=CC=C1 | C5H5N
product | 5,6-Dichloro-2-(isopropylamino)-1H-benzimidazole | 184 g, 67% | ClC1=CC2=C(NC(=N2)NC(C)C)C=C1Cl | C10H11Cl2N3
